US07576215B2
{4′-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-3-YL}ACETIC ACID
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and (4′-formyl-biphenyl-3-yl)-acetic acid methyl ester. MS (ESI) m/z 601.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | (4′-formyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=CC=C(C=C1)C=O)=O | C16H14O3
product | {4′-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-3-YL}ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)O)C(F)(F)F | C38H29F3N2O2
